US08754107B2
To solid aluminum chloride (0.422 g, 3.16 mmol) at 0° C. was added anhydrous THF (23 mL). The mixture was stirred until all solid went into solution. Lithium aluminum hydride (1.0 N in THF, 8.95 mL, 8.95 mmol) was added dropwise and the reaction mixture was allowed to warm to room temperature. After about 20 minutes, the reaction mixture was cooled to about −78° C. and a solution of (3S,7R,7aR)-7a-cyclopropyl-7-(4-(2-methoxyphenyl)piperidin-1-yl)-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one (preparation #25) (1.29 g, 2.98 mmol) in THF (16 mL) was added. The reaction mixture was stirred for about 1 h then allowed to warm up to room temperature and stirred for an additional 3 h. The reaction mixture was cooled to about 0° C. and water (2.7 mL) was added dropwise followed by aqueous NaOH (2.0N, 4 mL). More water (9 mL) was added, then ether (70 mL) and the mixture was stirred for about 30 min. The ether solution was decanted, dried over MgSO4 and concentrated in vacuo to afford (2S)-2-((3R)-3-(4-(2-methoxyphenyl)piperidin-1-yl)-2-cyclopropylpyrrolidin-1-yl)-2-phenylethanol (1.25 g, 2.98 mmol) as a pair of diastereomers as a white solid. RP-HPLC (Table 1, Method a) Rt 1.79 and 1.96 min; m/z: (M+H)+ 421.

reactant | aluminum chloride | 3.16 mmol, 0.422 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Lithium aluminum hydride | 8.95 mmol, 1.0 N, 8.95 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3S,7R,7aR)-7a-cyclopropyl-7-(4-(2-methoxyphenyl)piperidin-1-yl)-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one | 2.98 mmol, 1.29 g | C1(CC1)[C@]12OC[C@@H](N1C(C[C@H]2N2CCC(CC2)C2=C(C=CC=C2)OC)=O)C2=CC=CC=C2 | C27H32N2O3
reactant | NaOH | 2.0N, 4 mL | [OH-].[Na+]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 23 mL | C1CCOC1 | C4H8O
solvent | ether | 70 mL | CCOCC | C4H10O
solvent | water | 9 mL | O | H2O
solvent | water | 2.7 mL | O | H2O
product | (2S)-2-((3R)-3-(4-(2-methoxyphenyl)piperidin-1-yl)-2-cyclopropylpyrrolidin-1-yl)-2-phenylethanol | 2.98 mmol, 1.25 g | COC1=C(C=CC=C1)C1CCN(CC1)[C@H]1C(N(CC1)[C@H](CO)C1=CC=CC=C1)C1CC1 | C27H36N2O2
